US07960376B2
To a solution of 4-fluoro-3-nitrobenzoic acid (15 g, 81 mmol) in DMF (250 ml) was added 2-mercaptoethanol (6.27 ml, 89 mmol), and potassium carbonate (28.0 g, 203 mmol). The reaction was allowed to stir over night. The reaction mixture had turned solid and yellow. TLC analysis indicated consumption of starting material. The reaction mixture was treated with H2O (300 mL) and extracted with DCM (2×100 mL). The aqueous layer was then treated with concentrated HCl until a pH of 1 was attained. The organic layer was extracted with EtOAc (4×150 mL). The combined EtOAc extracts were dried over Na2SO4 and concentrated in vacuo to provide 4-(2-hydroxyethylthio)-3-nitrobenzoic acid (19.24 g, 79. mmol) in 98% yield, which was used without further purification.

reactant | 4-fluoro-3-nitrobenzoic acid | 81 mmol, 15 g | FC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4FNO4
reactant | 2-mercaptoethanol | 89 mmol, 6.27 ml | SCCO | C2H6OS
reactant | potassium carbonate | 203 mmol, 28.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
product | 4-(2-hydroxyethylthio)-3-nitrobenzoic acid | 19.24 g, 98% yield | OCCSC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C9H9NO5S
